US09024027B2
To a suspension of methyl 2-(3,3-dichloro-5-nitro-2-oxoindolin-1-yl)acetate (0.314 g, 0.984 mmol) in acetic acid (10 ml), zinc powder (0.901 g, 13.78 mmol) was added potion wise at room temperature, and the mixture was stirred for 2 hours. Then the mixture was diluted with ethyl acetate, the solid was filtered off and washed with ethyl acetate and water. The filtrate was basified with solid K2CO3 (pH=8), and the phases were separated. The aqueous phase was extracted with DCM, and the combined organic layers were dried over sodium sulfate. The solvent was removed, and the crude was purified by filtration on silica gel cartridge (DCM:EtOAc from 80:20 to 50:50) affording methyl 2-(5-amino-2-oxoindolin-1-yl)acetate (0.120 g, 0.545 mmol, 55% yield). MS/ESI+ 220.9 [MH]+.

reactant | methyl 2-(3,3-dichloro-5-nitro-2-oxoindolin-1-yl)acetate | 0.984 mmol, 0.314 g | ClC1(C(N(C2=CC=C(C=C12)[N+](=O)[O-])CC(=O)OC)=O)Cl | C11H8Cl2N2O5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 13.78 mmol, 0.901 g | [Zn] | Zn
product | methyl 2-(5-amino-2-oxoindolin-1-yl)acetate | 0.545 mmol, 0.120 g, 55% yield | NC=1C=C2CC(N(C2=CC1)CC(=O)OC)=O | C11H12N2O3
